US07635778B2
bis(4-oxo-2-phenyl-4H-chromen-3-yl) terephthalate
To the three-necked round bottom flask attached with reflux condenser, calcium chloride guard tube and nitrogen inlet, 3-hydroxy-2-phenyl-4H-chromen-4-one (0.59 g), terephthaloyl chloride (0.59 g) and dichloromethane (50 ml) were charged. Then triethyl amine (0.29 g) was charged and the reaction mixture was stirred at room temperature and monitored by thin layer chromatography (TLC). On completion of the reaction 10 ml water was added to the reaction mixture and the organic layer was separated. The organic layer was dried and evaporated under reduced pressure to give the product.

reactant | 3-hydroxy-2-phenyl-4H-chromen-4-one | 0.59 g | OC1=C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C15H10O3
reactant | terephthaloyl chloride | 0.59 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | triethyl amine | 0.29 g | C(C)N(CC)CC | C6H15N
reactant | water | 10 ml | O | H2O
product | bis(4-oxo-2-phenyl-4H-chromen-3-yl) terephthalate | C(C1=CC=C(C(=O)OC2=C(OC3=CC=CC=C3C2=O)C2=CC=CC=C2)C=C1)(=O)OC1=C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C38H22O8
